US05989434
CST Bound with Styrene Butadiene Emulsion (Goodrite 1800×73)
The material was prepared by dispersing 0.80 g Tergitol TMN-06 in 1481 g deionized water with an air mixer. To this was then added 1159 g of ground crystalline silicotitanate (150 g, 13.0% solids) (IONSIV IE 910) with agitation. Slowly to this was added 150.1 g Goodrite 1800×73 (39% solids, 58.5 g) with stirring. This mixture was mixed for 1 hour with an air mixer. The slurry was spray dried using a Niro Atomizer, (Serial number #2402) at 35 mL/min. Spray drying conditions were as follows:

reactant | Tergitol | 0.80 g | CCCCC(CC)CCC(CC(C)C)OS(=O)(=O)[O-].[Na+]
solvent | water | O | H2O
product | Styrene Butadiene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
